US03950353
3-Chloromethylpyrazole, prepared by reacting 3-hydroxy-methylpyrazole with thionyl chloride, is reacted with the sodium salt of ethylene glycol to give 3-(2-hydroxyethoxymethyl)-pyrazole. Treatment of 3-(2-hydroxyethoxymethyl)pyrazole with thionyl chloride gives 3 -(2-chloroethoxymethylpyrazole.

reactant | 3-Chloromethylpyrazole | ClCC1=NNC=C1 | C4H5ClN2
reactant | 3-hydroxy-methylpyrazole | OC1=NNC=C1C | C4H6N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sodium | [Na] | Na
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 3-(2-hydroxyethoxymethyl)-pyrazole | OCCOCC1=NNC=C1 | C6H10N2O2
